US04335127
A mixture of 2.3 parts of N-[2-[1-[2-(1,4-dihydro-2,4-dioxo-3(2H)-quinazolinyl)ethyl]-4-piperidinylcarbonyl]-5-fluorophenyl]formamide, 33 parts of concentrated sulfuric acid and 144 parts of ethanol is stirred and refluxed for 1 hour. The reaction mixture is poured onto crushed ice and alkalized with a dilute sodium hydroxide solution. The precipitated product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 0.4 parts of 3-[2-[4-(2-amino-4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione; mp. 269.5° C.

reactant | N-[2-[1-[2-(1,4-dihydro-2,4-dioxo-3(2H)-quinazolinyl)ethyl]-4-piperidinylcarbonyl]-5-fluorophenyl]formamide | O=C1NC2=CC=CC=C2C(N1CCN1CCC(CC1)C(=O)C1=C(C=C(C=C1)F)NC=O)=O | C23H23FN4O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[2-[4-(2-amino-4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione | NC1=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=CC=C3C2=O)=O)C=CC(=C1)F | C22H23FN4O3
